US06350892B1
4-[2-(tert-Butyldiphenylsilyloxy)ethoxy]benzoic Acid, Methyl Ester
A mixture of methyl 4-hydroxybenzoate (3.25 g, 22.0 mmol, 2-(tert-butyldiphenylsilyloxy) ethyl bromide (8.0 g, 22.0 mmol, powdered anhydrous potassium carbonate (12 g) and potassium iodide (0.1 g) in acetone (250 ml) was heated under reflux for 48 h. The solid was then filtered and the filtrate was evaporated under reduced pressure.

reactant | methyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | 2-(tert-butyldiphenylsilyloxy) ethyl bromide | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCBr | C18H23BrOSi
reactant | potassium carbonate | 12 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 0.1 g | [I-].[K+]
solvent | acetone | 250 ml | CC(=O)C | C3H6O
product | 4-[2-(tert-Butyldiphenylsilyloxy)ethoxy]benzoic Acid, Methyl Ester | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCCOC1=CC=C(C(=O)OC)C=C1 | C26H30O4Si
